US05707985
3-(1-Acetoxy-3-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane
4-Acetoxy-2-naphthalenesulfonyl chloride (861 mg, 3.02 mmol) and 3-azabicyclo[3.2.2]nonane (379 mg, 3.02 mmol) were combined in CHCl3 (20 ml) and pyridine (20 ml) and the mixture was stirred at room temperature for 15 hr. At this time the solvent was evaporated under reduced pressure and the residue was partitioned between EtOAc and 1N aq HCl. The EtOAc was then washed with saturated aq NaHCO3, dried over Na2SO4, and concentrated. The residue was purified by flash chromatography using 1% acetone in CHCl3 to provide the pure product as a white foam (712 mg, 63% yield): 1H NMR (CDCl3) δ 1.52-1.84 (8H, m, 4×CH2), 2.02-2.13 (2H, br s, 2×CH), 2.46 (3H, s, CH3CO), 3.31 (4H, d, J=4.2 Hz, 2×CH2), 7.56-7.71 (3H, m, ArH), 7.92-8.02 (2H, m, ArH).

reactant | 4-Acetoxy-2-naphthalenesulfonyl chloride | 3.02 mmol, 861 mg | C(C)(=O)OC1=CC(=CC2=CC=CC=C12)S(=O)(=O)Cl | C12H9ClO4S
reactant | 3-azabicyclo[3.2.2]nonane | 3.02 mmol, 379 mg | C12CNCC(CC1)CC2 | C8H15N
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(1-Acetoxy-3-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane | 712 mg, 63% yield | C(C)(=O)OC1=CC(=CC2=CC=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C20H23NO4S
